US08865712B2
b) 2-[2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3-fluoro-2-fluoromethyl-propionamide
A solution of 2-[2-(2-bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3-fluoro-2-fluoromethyl-propionic acid ethyl ester (970 mg, 1.660 mmol) and 7M NH3 in MeOH (10 ml) was stirred in a in a sealed glass vial at 55° C. for 20 h. Another 3 ml of 7N NH3/MeOH were added and stirring was continued for 16 h at 55° C. The reaction mixture was concentrated and yielded the title compound as a yellow solid that was used in the next step without further purification.

reactant | 2-[2-(2-bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3-fluoro-2-fluoromethyl-propionic acid ethyl ester | 1.660 mmol, 970 mg | C(C)OC(C(CF)(CF)OCC(C)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=NC=C1F)Br)=O | C20H21BrF3N3O7S
reactant | NH3 | 7M | N | H3N
reactant | NH3 MeOH | 7N, 3 ml | N.CO
solvent | MeOH | 10 ml | CO | CH4O
product | 2-[2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3-fluoro-2-fluoromethyl-propionamide | BrC1=NC=C(C(=C1)C(COC(C(=O)N)(CF)CF)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F | C18H18BrF3N4O6S
